US06436960B1
Synthesis of 3-(4-Methylpiperazin-1-yl)carbonyl-4-(naphthalen-1-yl)-1H-pyrrole
234 mg(1 mmol) of the compound prepared in Preparation 2-3) was dissolved in 2 ml of dimethylformamide, 230 mg(1.2 mmol) of EDC and 162 mg(1.7 mmol) of HOBT were added thereto, and the resulting mixture was stirred for 5 minutes at 0° C. To this reaction solution was added 88 mg(1 mmol) of N-methylpiperazine, which was then stirred for 5 hours at room temperature. The solvent was removed under reduced pressure and 10 ml of saturated aqueous potassium carbonate solution was added to the residue. The resulting mixture was extracted with ethyl acetate, washed with aqueous sodium chloride solution and water and then concentrated. The concentrate was subjected to silica gel column chromatography(eluent: dichloromethane/methanol=85/15, v/v) to obtain 240 mg(0.75 mmol) of the title compound.

reactant | EDC | 1.2 mmol, 230 mg
reactant | HOBT | 1.7 mmol, 162 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylpiperazine | 1 mmol, 88 mg | CN1CCNCC1 | C5H12N2
reactant | dichloromethane methanol | ClCCl.CO
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(4-Methylpiperazin-1-yl)carbonyl-4-(naphthalen-1-yl)-1H-pyrrole | 0.75 mmol, 240 mg | CN1CCN(CC1)C(=O)C1=CNC=C1C1=CC=CC2=CC=CC=C12 | C20H21N3O
